US06455550B1
To a suspension of 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-(4-methoxyphenylmethyl)cyclohexyl]carbonyl]-L-phenylalanine methyl ester (0.15 g, 0.25 mmol) in ethanol (2 mL) was added aqueous 1.0 N sodium hydroxide (1.5 mL, 3 mmol) at room temperature. The mixture was heated to 50° C. and the resulting clear solution was stirred overnight The mixture was concentrated, the residue was diluted with 5 mL of water and extracted with 25 mL of ether to remove any neutral impurities. The aqueous layer was acidified with 1 N HCl and the precipitated white solid was collected by filtration and washed with water (20 mL) and hexane (20 mL). After air-drying, 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-(4-methoxyphenylmethyl)cyclohexyl]carbonyl]-L-phenylalanine (0.12 g, 82%) was obtained as a white solid, mp 136-140° C. HR MS: Obs mass, 583.1763. Calcd mass, 583.1766 (M+H).

reactant | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-(4-methoxyphenylmethyl)cyclohexyl]carbonyl]-L-phenylalanine methyl ester | 0.25 mmol, 0.15 g | COC([C@@H](NC(=O)C1(CCCCC1)CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C32H34Cl2N2O5
reactant | sodium hydroxide | 3 mmol, 1.0 N, 1.5 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-(4-methoxyphenylmethyl)cyclohexyl]carbonyl]-L-phenylalanine | 0.12 g, 82% | ClC1=C(C(=CC=C1)Cl)C(=O)NC1=CC=C(C[C@H](NC(=O)C2(CCCCC2)CC2=CC=C(C=C2)OC)C(=O)O)C=C1 | C31H32Cl2N2O5
